US09034303B2
An rt solution of bromine (2.34 g, 14.7 mmol) in acetic acid (10 mL) was slowly added to a solution of 7-fluoro-8-quinolinol (2.0 g, 12.2 mmol) in acetic acid (30 mL). The brown reaction mixture was stirred at rt for 16 h, after which the mixture was quenched with saturated sodium bisulfite solution. The resulting mixture was extracted with methyl t-butyl ether 3 times. The combined organic phases were washed with saturated NaHCO3 and brine, dried over Na2SO4, and concentrated in vacuo to dryness to give 3.0 g (97.0%) 5-bromo-7-fluoro-8-quinolinol as a green solid.

reactant | bromine | 14.7 mmol, 2.34 g | BrBr | Br2
reactant | 7-fluoro-8-quinolinol | 12.2 mmol, 2.0 g | FC1=CC=C2C=CC=NC2=C1O | C9H6FNO
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | 5-bromo-7-fluoro-8-quinolinol | 3.0 g, 97.0% | BrC1=C2C=CC=NC2=C(C(=C1)F)O | C9H5BrFNO
